Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Nifedipine / latex / IV Dye, Iodine Containing Contrast Media
 
Attending: ___.
 
Chief Complaint:
RUE swelling, unable to access RUE AVG for HD

 
Major Surgical or Invasive Procedure:
___ left avg resected
___ left IJ tunneled line placement

 
History of Present Illness:
HPI:  ___ ESRD on HD, ___ s/p R nephrectomy, and CHF presenting
with RUE swelling x2 days, inability to access RUE AVF at HD
today.  Mr. ___ reports having used his RUE AVF, placed
___, for approximately two weeks for ___ HD.  He noticed
more swelling and discomfort in the entire R arm yesterday, 
which
has worsened today.  He presented for HD this afternoon, but 
when
the nurses were unable to hear a bruit, he was referred to the 
ED
for evaluation of the graft.  There was no attempt to access the
graft today.  He was last dialyzed on ___ and feels mildly
fluid overloaded, with mild dyspnea but reports this feels much
like a ___ on ___ HD.

Of note, Mr. ___ was previously dialyzing via tunneled R IJ
HD catheter, which was removed earlier this week.  He denies
fever, chills, nausea, vomiting, diarrhea, weakness, or chest
pain.  He denies R hand pain or coolness, but does feel
"tightness" when he makes a fist.

ROS:
(+) per HPI
(-) Denies pain, fevers chills, night sweats, unexplained weight
loss, fatigue/malaise/lethargy, changes in appetite, trouble 
with
sleep, pruritis, jaundice, rashes, bleeding, easy bruising,
headache, dizziness, vertigo, syncope, weakness, paresthesias,
nausea, vomiting, hematemesis, bloating, cramping, melena, 
BRBPR,
dysphagia, chest pain, cough, urinary frequency, urgency

 
Past Medical History:
- Renal cell carcinoma s/p right nephrectomy in ___  
- CKD IV- felt secondary to HTN on the left kidney. Initiated HD 
on ___ secondary to uremic symptoms. Tunneled catheter
- CAD  
- Gout  
- OSA  
- CHF  
- Malignant hyperthermia  
- Hypercholesterolemia  
Past surgical history:  
- Right nephrectomy ___  
- Left brachiobasilic arteriovenous fistula ___  
- Appendectomy 

 
Social History:
___
Family History:
His mother is alive at the age of ___ with history of 
hypertension and hip replacement. His father is also alive and 
had an aneurysm. The patient has six siblings who are doing 
well. He has two adult daughters who are healthy.
 
Physical Exam:
VS: 98.4, 87, 126/74, 18, 99% RA
Gen: AAOx3, NAD
CV: RRR
Pulm: CTAB
Chest: left tunneled line in place w/o erythema/swelling
Ext: RUE AVG site nonerythematous, nonedematous, w/o drainage

 
Pertinent Results:
___ 06:00PM BLOOD WBC-9.7 RBC-3.72* Hgb-11.1* Hct-35.0* 
MCV-94 MCH-29.7 MCHC-31.6 RDW-17.0* Plt ___
___ 06:30AM BLOOD WBC-3.3*# RBC-3.53* Hgb-10.5* Hct-33.4* 
MCV-95 MCH-29.7 MCHC-31.4 RDW-16.7* Plt ___
___ 06:30AM BLOOD ___ PTT-31.0 ___
___ 06:30AM BLOOD Glucose-338* UreaN-106* Creat-12.1* 
Na-138 K-5.1 Cl-99 HCO3-21* AnGap-23*
___ 06:30AM BLOOD Calcium-8.5 Phos-4.3# Mg-2.3
___ 06:30AM BLOOD Vanco-20.5*

___ 8:21 am FOREIGN BODY      RIGHT AV GRAFT. 
 **FINAL REPORT ___
WOUND CULTURE (Final ___:    NO GROWTH.

___ 12:54 am SWAB      Source: Rectal swab. 

   R/O VANCOMYCIN RESISTANT ENTEROCOCCUS (Preliminary): 
      ENTEROCOCCUS SP.. 

 
Brief Hospital Course:
___ y/o male admitted through the emergency room from his 
dialysis unit with a thrombosed graft. Ultrsound on admission 
shows an occlusive thrombosis along the entire length of the 
right arteriovenous graft. The graft had been placed on ___ 
and had been successfully used. 
He was taken to the OR on ___ with Dr ___ initially 
for a graft thrombectomy. However, once into the arm, it was 
quickly noted that the graft was completely unincorporated and 
therefore grossly infected, however there was no pus. The 
incision was extended toward the venous anastomosis until 
incorporated graft was found. Approximately 4 cm of graft was 
excised. The limbs were oversewn, cultures were sent, the 
patient tolerated the procedure without complication. 
The AV graft specimen showed no growth on culture.
The patient received IV Vancomycin per HD protocol.
On ___ he underwent successful placement of tunneled access 
catheter through the left internal jugular vein approach, with 
the tip located in the right atrium and the catheter ready for 
use. 
Following line placement he was taken to hemodialysis, and 
received a 4 hour treatment with 4.5 liters removed. However, 
since he had not received dialysis in 4 days, the nephrology 
team thought it beneficial to complete another HD run on 
___, then discharge back to his regular dialysis unit 
schedule of ___. He will continue antibiotics for 2 weeks, 
followed by one week off antibiotics, and if he remains well and 
afebrile, we will proceed with graft revision.
The patient was scheduled for a jump graft placement on ___.
 
Medications on Admission:
nephrocaps', benazepril 40', carvedilol 25'',
felodipine ER 10', glipizide 10'', hydralazine 150'', ___,
avapro 150', crestor 20', sildenafil, ASA 81', Calcium carbonate
200'''

Allergies:  nifedipine, IV/iodine containing dyes, latex

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Avapro *NF* (irbesartan) 150 mg Oral daily Reason for 
Ordering: Wish to maintain preadmission medication while 
hospitalized, as there is no acceptable substitute drug product 
available on formulary.
3. benazepril *NF* 40 mg Oral daily Reason for Ordering: Wish to 
maintain preadmission medication while hospitalized, as there is 
no acceptable substitute drug product available on formulary.
4. Calcium Carbonate 500 mg PO TID 
5. Carvedilol 25 mg PO BID 
6. Felodipine 10 mg PO DAILY 
7. GlipiZIDE 10 mg PO BID 
8. HydrALAzine 150 mg PO BID 
9. Nephrocaps 1 CAP PO DAILY 
10. Rosuvastatin Calcium 20 mg PO DAILY 
11. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
RX *sevelamer carbonate [Renvela] 800 mg 2 tablet(s) by mouth 
four times a day Disp #*180 Tablet Refills:*3
12. Vancomycin  IV Sliding Scale Duration: 2 Weeks  
13. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
14. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin
15. Aspirin 81 mg PO DAILY 
16. PredniSONE 0 mg PO DAILY 
Per gout flare therapy 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
infected av graft
esrd
h/o RCC

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You had your AVG removed and a left internal jugular tunneled 
dialysis catheter placed on ___. 
You may continue on hemodialysis using the tunneled catheter on 
___ schedule
-Please call Dr. ___ office ___ if you have 
any of the following: temperature of 101 or greater, chills, 
bleeding/swelling/redness from right arm incision or Left 
tunneled line site. Please call immediately if catheter 
malfunctions
 
Followup Instructions:
___